US05856484
0.2 ml of Hunig base, 0.052 g of bis-(2-oxo-3-oxazolidinyl)-phosphinic acid chloride and 0.01 ml of aniline were added to a solution of 0.053 g of 6-(4-tert.butyl-phenylsulphonylamino)-4-(2-hydroxy-ethoxy)-5-(3-methoxy-phenoxy)-pyrimidine-2-carboxylic acid in 5 ml of acetonitrile. After 3 hours the reaction mixture was evaporated and partitioned between ethyl acetate and water. The organic phase was dried and evaporated, and the residue purified over silica gel with chloroform. There was obtained 0.032 g of 6-(4-tert.butyl-phenylsulphonylamino)-4-(2-hydroxy-ethoxy)-5-(3-methoxy-phenoxy)-pyrimidine-2-carboxylic acid phenylamide, m.p. 143° C., MS: (M-H)- 591.

reactant | Hunig base | 0.2 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | bis-(2-oxo-3-oxazolidinyl)-phosphinic acid chloride | 0.052 g | O=C1OCCN1P(=O)(N1C(OCC1)=O)Cl | C6H8ClN2O5P
reactant | aniline | 0.01 ml | NC1=CC=CC=C1 | C6H7N
reactant | 6-(4-tert.butyl-phenylsulphonylamino)-4-(2-hydroxy-ethoxy)-5-(3-methoxy-phenoxy)-pyrimidine-2-carboxylic acid | 0.053 g | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C(=NC(=N1)C(=O)O)OCCO)OC1=CC(=CC=C1)OC | C24H27N3O8S
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 6-(4-tert.butyl-phenylsulphonylamino)-4-(2-hydroxy-ethoxy)-5-(3-methoxy-phenoxy)-pyrimidine-2-carboxylic acid phenylamide | 0.032 g | C1(=CC=CC=C1)NC(=O)C1=NC(=C(C(=N1)OCCO)OC1=CC(=CC=C1)OC)NS(=O)(=O)C1=CC=C(C=C1)C(C)(C)C | C30H32N4O7S
